US04518685
75 g (0.85 mol) of 1,3-dimethylurea and 102 g (0.86 mol) of methyl malonic acid were dissolved in 300 ml of glacial acetic acid at 65° C. To the solution was added 330 ml of acetic anhydride, the temperature was gradually raised and the mixture was refluxed by heating at 90° C. for 6 hours. The reaction solution was concentrated under reduced pressure, and benzene was added to the residue. The crystals thus-deposited were collected by filtration and recrystallized from benzene to obtain 60 g of 1,3,5-trimethylbarbituric acid. Yield: 42%, Melting Point: 83° to 85° C.

reactant | 1,3-dimethylurea | 0.85 mol, 75 g | CNC(=O)NC | C3H8N2O
reactant | methyl malonic acid | 0.86 mol, 102 g | CC(C(=O)O)C(=O)O | C4H6O4
reactant | acetic anhydride | 330 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 1,3,5-trimethylbarbituric acid | 60 g, Yield: 42% | CN1C(=O)N(C(=O)C(C1=O)C)C | C7H10N2O3
